US07745438B2
(2S,3S,5R)-5-[(1S,2S)-1-Benzyloxy-3-(3-benzyloxy-5-fluoro-phenyl)-2-dibenzylaminopropyl]-3-methyl-2-(2,2,2-trifluoro-ethoxy)-morpholine-4-carboxylic acid tert-butyl ester
Add diisopropyl azodicarboxylate (0.675 mL, 3.43 mmol) dropwise to an ice cold solution of (3S,5R)-5-[(1R,2S)-1-benzyloxy-3-(3-benzyloxy-5-fluoro-phenyl)-2-dibenzylamino-propyl]-3-methyl-morpholin-2-ol (1.30 g, 1.71 mmol), 2,2,2-trifluoroethanol (1.0 mL, 13.7 mmol) and triphenylphosphine (900 mg, 3.43 mmol) in deoxygenated toluene (8 mL). Stir in ice bath for 3 hours and evaporate. Purify on silica gel with hexane/ethyl acetate mixtures to give the desired compound (1.21 g) as a white foam. MS(ESI): m/z=843 [M+H]+.

reactant | diisopropyl azodicarboxylate | 3.43 mmol, 0.675 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | (3S,5R)-5-[(1R,2S)-1-benzyloxy-3-(3-benzyloxy-5-fluoro-phenyl)-2-dibenzylamino-propyl]-3-methyl-morpholin-2-ol | 1.71 mmol, 1.30 g | C(C1=CC=CC=C1)O[C@@H]([C@H](CC1=CC(=CC(=C1)F)OCC1=CC=CC=C1)N(CC1=CC=CC=C1)CC1=CC=CC=C1)[C@H]1COC([C@@H](N1)C)O | C42H45FN2O4
reactant | 2,2,2-trifluoroethanol | 13.7 mmol, 1.0 mL | FC(CO)(F)F | C2H3F3O
reactant | triphenylphosphine | 3.43 mmol, 900 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
product | (2S,3S,5R)-5-[(1S,2S)-1-Benzyloxy-3-(3-benzyloxy-5-fluoro-phenyl)-2-dibenzylaminopropyl]-3-methyl-2-(2,2,2-trifluoro-ethoxy)-morpholine-4-carboxylic acid tert-butyl ester | 1.21 g | C(C)(C)(C)OC(=O)N1[C@H]([C@@H](OC[C@@H]1[C@H]([C@H](CC1=CC(=CC(=C1)F)OCC1=CC=CC=C1)N(CC1=CC=CC=C1)CC1=CC=CC=C1)OCC1=CC=CC=C1)OCC(F)(F)F)C | C49H54F4N2O6
